US05068334
b) 4-Methyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
4.46 g (0.025 mol) of 4-methyl-5,6,7,8-tetrahydro- cumarin-5-one are heated to 180° C. for 3 hours in 150 ml of saturated methanolic ammonia in a stirred autoclave. After cooling, the methanolic ammonia is distilled off using a rotary evaporator and the residue is recrystallised from ethanol using activated charcoal.

reactant | 4-methyl-5,6,7,8-tetrahydro- cumarin-5-one | 0.025 mol, 4.46 g | CC1=CC(OC=2CCCC(C12)=O)=O | C10H10O3
reactant | ammonia | 150 ml | N | H3N
product | 4-Methyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | CC1=CC(NC=2CCCC(C12)=O)=O | C10H11NO2
